US07807619B2
4-(2-Oxo-cyclooctylmethyl)benzoic acid methyl ester (4a).
To a stirring solution of cyclooctanone (1.76 g, 14.0 mmol) in THF (30 mL) at −78° C. was added LDA (8.54 mL, 15.4 mmol, 1.8 M in heptane/THF/ethylbenzene). After 1 h, a solution of methyl 4-bromomethylbenzoate (3.53 g, 15.4 mmol) in THF (10 mL) was added and the reaction mixture was allowed to warm to rt. After 30 min, the reaction was quenched with H2O (10 mL) and the THF was removed on a rotary evaporator. The residue was diluted with EtOAc (100 mL), washed with H2O (3×100 mL) and brine (1×50 mL), and dried over MgSO4. Chromatography of the crude product (50:1 to 9:1 hexanes/EtOAc) yielded the desired product as a colorless oil (3.08 g, 80%, Rf=0.30, 9:1 hexanes/EtOAc). IR: 3426, 2929, 2856, 1721, 1700, 1657, 1611 cm−1. 1H NMR (CDCl3, 300 MHz): δ 1.10-1.28 (m, 1H), 1.28-1.42 (m, 1H), 1.42-1.80 (m, 6H), 1.80-1.90 (m, 1H), 1.90-2.08 (m, 1H), 2.08-2.18 (m, 1H), 2.22-2.35 (m, 1H), 2.64 (dd, 1H, J=12.6, 6.0 Hz), 3.01 (m, 2H), 3.89 (s, 3H), 7.20 (d, 2H, J=8.1 Hz), 7.93 (d, 2H, J=8.4 Hz). 13C NMR (CDCl3, 75 MHz): δ 24.5, 24.6, 25.1, 27.7, 32.9, 38.1, 43.2, 51.5, 52.0, 128.1, 129.0, 129.7, 145.6, 167.0, 218.9. FAB—HRMS: Calcd. for C17H23O3+ [M+H]+: 275.1647, found: 275.1648.

reactant | cyclooctanone | 14.0 mmol, 1.76 g | C1(CCCCCCC1)=O | C8H14O
reactant | LDA | 15.4 mmol, 1.8 M, 8.54 mL | [Li+].CC(C)[N-]C(C)C
reactant | methyl 4-bromomethylbenzoate | 15.4 mmol, 3.53 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(2-Oxo-cyclooctylmethyl)benzoic acid methyl ester | 3.08 g, 80% | COC(C1=CC=C(C=C1)CC1C(CCCCCC1)=O)=O | C17H22O3
